US07238211B2
A) Synthesis of 2-[butyl-(6-methoxy-3-nitro-2-pyridyl)amino]ethanol
1.9 g (0.01 mol) of the product 2-chloro-3-nitro-6-methoxypyridine, 30 ml of dioxane, 5 ml of water and 2.62 ml (0.02 mol) of 2-butylaminoethanol are placed in a fully equipped round-bottomed flask. The mixture is refluxed for 2 hours with stirring and is then poured onto an ice/water mixture with stirring. The precipitate formed is filtered off by suction and dried under vacuum to constant weight. 1.9 g of yellow powder are obtained, ie a yield of 70%.

reactant | 2-chloro-3-nitro-6-methoxypyridine | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
reactant | 2-butylaminoethanol | 0.02 mol, 2.62 ml | C(CCC)NCCO | C6H15NO
solvent | water | 5 ml | O | H2O
product | 2-[butyl-(6-methoxy-3-nitro-2-pyridyl)amino]ethanol | 1.9 g, yield of 70% | C(CCC)N(CCO)C1=NC(=CC=C1[N+](=O)[O-])OC | C12H19N3O4
